US07105707B2
The procedure was identical to Example 2, with the exception that 1-hexyne (0.450 ml; 0.329 g; 4.00 mmol) was used as a substrate instead of phenylacetylene and 4-chlorobenzonitrile (0.275 g; 2.00 mmol) was used as a substrate instead of benzonitrile. GC analysis of the organic phase of the hydrolyzed reaction sample after 20 h at 65° C. showed the presence of 1.29 mmol (65% yield) of 1-chloro-4-(1-hexynyl)benzene, 0.10 mmol 1,4-bis(1-hexynyl)benzene and no remaining 4-chlorobenzonitrile in the reaction mixture.

reactant | 1-hexyne | 4.00 mmol, 0.450 ml, 0.329 g | C#CCCCC | C6H10
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 4-chlorobenzonitrile | 2.00 mmol, 0.275 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
catalyst | 1,4-bis(1-hexynyl)benzene | 0.10 mmol | C(#CCCCC)C1=CC=C(C=C1)C#CCCCC | C18H22
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 1-chloro-4-(1-hexynyl)benzene | 1.29 mmol, 65% yield | ClC1=CC=C(C=C1)C#CCCCC | C12H13Cl
